US05134152
2-(2,4-Difluorophenyl)-2-[(1H-1,2,4-triazol-1-yl)-methyl]-3,3,4-trimethyloxetane
10 mg of sodium hydride were added to a solution of 77 mg of this 2-(2,4-difluorophenyl)-3,3-dimethyl-4-(methanesulfonyloxy)-1-(1H-1,2,4-triazol-1-yl)-2-pentanol in 1.5 ml of tetrahydrofuran, whilst ice-cooling and stirring, after which 0.1 ml of methanol was added. After 10 minutes, the reaction mixture was diluted with water and extracted with ethyl acetate. The resulting crude product was purified by column chromatography through silica gel, using a 3:2 by volume mixture of ethyl acetate and hexane as the eluent. The resulting compound was recrystallized from cyclohexane to afford 39 mg of a pure specimen of the title compound, melting at 112°-113° C.

reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | 2-(2,4-difluorophenyl)-3,3-dimethyl-4-(methanesulfonyloxy)-1-(1H-1,2,4-triazol-1-yl)-2-pentanol | 77 mg | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(C(C)OS(=O)(=O)C)(C)C)O | C16H21F2N3O4S
reactant | methanol | 0.1 ml | CO | CH4O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(2,4-Difluorophenyl)-2-[(1H-1,2,4-triazol-1-yl)-methyl]-3,3,4-trimethyloxetane | FC1=C(C=CC(=C1)F)C1(OC(C1(C)C)C)CN1N=CN=C1 | C15H17F2N3O
